US07456164B2
Intermediate 18: (3-Chloro-propyl)-isopropyl-methyl-amine
Isopropylmethylamine (4 g, 56 mmol), acetone (12 ml, 3 vol), 5M NaOH solution (13.44 ml, 1.2 eq.) and 1-bromo-3-chloropropane (13.22 g, 84 mmol, 1.5 eq.) were reacted together according to general procedure A to give the title compound (4.8 g, 66%) as a colourless oil.

reactant | Isopropylmethylamine | 56 mmol, 4 g | C(C)(C)NC | C4H11N
reactant | NaOH | 5M, 13.44 ml, 1.2 eq. | [OH-].[Na+]
reactant | 1-bromo-3-chloropropane | 84 mmol, 13.22 g, 1.5 eq. | BrCCCCl | C3H6BrCl
solvent | acetone | 12 ml | CC(=O)C | C3H6O
product | (3-Chloro-propyl)-isopropyl-methyl-amine | 4.8 g, 66% | ClCCCN(C)C(C)C | C7H16ClN
